US08802697B2
6-(2,6-dichloro-3,5-dimethoxyphenyl)-N-(2-methyl-6-nitrophenyl)quinazolin-2-amine (5.5 g, 11.33 mmol) was taken up in methanol (200 ml) and Ethyl Acetate (100 ml), 10% Pd/C (650 mg) was added. The mixture was stirred under H2 balloon overnight. The reaction mixture was filtered through celite and the solvent was removed to give N1-(6-(2,6-dichloro-3,5-dimethoxyphenyl)quinazolin-2-yl)-6-methylbenzene-1,2-diamine in quantitative yield. It was carried on to the next step without further purification. MS (ES+) C23H20Cl2N4O2, 455 [M+H]+

reactant | 6-(2,6-dichloro-3,5-dimethoxyphenyl)-N-(2-methyl-6-nitrophenyl)quinazolin-2-amine | 11.33 mmol, 5.5 g | ClC1=C(C(=C(C=C1OC)OC)Cl)C=1C=C2C=NC(=NC2=CC1)NC1=C(C=CC=C1[N+](=O)[O-])C | C23H18Cl2N4O4
solvent | methanol | 200 ml | CO | CH4O
solvent | Ethyl Acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 650 mg | [Pd] | Pd
product | N1-(6-(2,6-dichloro-3,5-dimethoxyphenyl)quinazolin-2-yl)-6-methylbenzene-1,2-diamine | quantitative yield | ClC1=C(C(=C(C=C1OC)OC)Cl)C=1C=C2C=NC(=NC2=CC1)NC=1C(=CC=CC1C)N | C23H20Cl2N4O2
